US04072498
Following the procedure of Example 68, but substituting 4-methyl-α,3-diphenylpyrazole-1-acetic acid for α,4-dimethyl-3-phenylpyrazole-1-acetic acid and dimethylamine for aqueous ammonia, there was obtained N,N,4-trimethyl-α,3-diphenylpyrazole-1-acetamide having a melting point of 135.5°-138° C.

reactant | α,4-dimethyl-3-phenylpyrazole-1-acetic acid | CC(C(=O)O)N1N=C(C(=C1)C)C1=CC=CC=C1 | C13H14N2O2
reactant | dimethylamine | CNC | C2H7N
reactant | ammonia | N | H3N
product | N,N,4-trimethyl-α,3-diphenylpyrazole-1-acetamide | CN(C(C(N1N=C(C(=C1)C)C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C20H21N3O
